US04871730
A mixture of benzhydryl 7-amino-3-[(Z)-2-(2-pyridyl) -vinylthio]-3-cephem-4-carboxylate (600 ml) and bis-(trimethylsilyl)urea (981 mg) in methylene chloride (6 ml) was stirred at 30°~35° C. for 30 minutes to give a clear solution. To the clear solution was added 2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3yl) acetyl chloride monohydrochloride (syn isomer) (480 mg) at -20° C. and the mixture was stirred for 30 minutes at -10°~-15° C. The mixture was poured into a mixture of chloroform and water. The organic layer was separated and concentrated in vacuo to give a residue. The residue was dissolved in a mixture of tetrahydrofuran, ethyl acetate and dilute aqueous solution of sodium bicarbonate. The organic layer was separated, washed with dilute aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and concentrated in vacuo, and the residue was triturated with diisopropyl ether to give benzhydryl 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl) -acetamido]-3-[(Z)-2-(2-pyridyl)vinylthio]-3-cephem-4-carboxylate (syn isomer) (848 mg).

reactant | benzhydryl 7-amino-3-[(Z)-2-(2-pyridyl) -vinylthio]-3-cephem-4-carboxylate | 600 ml | NC1[C@@H]2N(C(=C(CS2)S\C=C/C2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S2
reactant | bis-(trimethylsilyl)urea | 981 mg | C[Si](C)(C)NC(=O)N[Si](C)(C)C | C7H20N2OSi2
reactant | 2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3yl) acetyl chloride monohydrochloride | 480 mg | Cl.C(C=C)ON=C(C(=O)Cl)C1=NSC(=N1)N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | benzhydryl 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl) -acetamido]-3-[(Z)-2-(2-pyridyl)vinylthio]-3-cephem-4-carboxylate | 848 mg | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C34H29N7O5S3
